US07700625B2
A mixture of (2,4-bis-benzyloxy-5-isopropenyl-phenyl)-(4-hydroxy-1,3-dihydro-isoindol-2-yl)-methanone (2 g; 4.07 mmol), 4-(3-chloropropyl)morpholine (1.66 g; 2.5 equiv.) and caesium carbonate (8.3 g; 6.25 equiv) in DMF was heated at 90° C. overnight then evaporated. The residue was dissolved in EtOAc, washed with brine, dried (MgSO4) and evaporated. Purification of the crude material using a Biotage SP4 (40 S, 40 ml/min), using gradient elution form 0% to 10% MeOH/EtOAc gave 1.8 g of (2,4-bis-benzyloxy-5-isopropenyl-phenyl)-[4-(3-morpholin-4-yl-propoxy)-1,3-dihydro-isoindol-2-yl]-methanone as a pale yellow gum. MS: [M+H]+ 619.

reactant | (2,4-bis-benzyloxy-5-isopropenyl-phenyl)-(4-hydroxy-1,3-dihydro-isoindol-2-yl)-methanone | 4.07 mmol, 2 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(=C)C)C(=O)N1CC2=CC=CC(=C2C1)O | C32H29NO4
reactant | 4-(3-chloropropyl)morpholine | 1.66 g, 2.5 equiv. | ClCCCN1CCOCC1 | C7H14ClNO
reactant | caesium carbonate | 8.3 g, 6.25 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
product | (2,4-bis-benzyloxy-5-isopropenyl-phenyl)-[4-(3-morpholin-4-yl-propoxy)-1,3-dihydro-isoindol-2-yl]-methanone | 1.8 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(=C)C)C(=O)N1CC2=CC=CC(=C2C1)OCCCN1CCOCC1 | C39H42N2O5
